US07897792B2
1-Methyl-2-tributylstannyl-1H-imidazole
n-BuLi (7.6 mL, 18.9 mmol) was added dropwise at −10° C. under nitrogen atmosphere over a period of 30 minutes to an anhydrous tetrahydrofuran solution (20 mL) of 1-methyl-1H-imidazole (1.6 mL, 18.8 mmol), and the mixture was stirred for 2.5 hours. Next, a tetrahydrofuran solution (12 mL) of Bu3SnCl (5.1 mL, 18.8 mmol) was added dropwise over a period of one hour at −78° C., and then the mixture was raised to room temperature and stirred overnight. The title compound (5.48 g, 79%) was obtained by vacuum distillation (140-142° C., 0.5 mmHg).

reactant | n-BuLi | 18.9 mmol, 7.6 mL | [Li]CCCC
reactant | 1-methyl-1H-imidazole | 18.8 mmol, 1.6 mL | CN1C=NC=C1 | C4H6N2
reactant | Bu3SnCl | 18.8 mmol, 5.1 mL | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Methyl-2-tributylstannyl-1H-imidazole | 5.48 g, 79% | CN1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H5N2.3C4H9.Sn/c1-6-3-2-5-4-6;3*1-3-4-2;/h2-3H,1H3;3*1,3-4H2,2H3;
